US04101522
Preparation of 4-t-Butylazo-4-azidopentyl chloroformate
This compound was prepared in the same manner as the 4-thiocyano derivative described in Example XXXI except that the 4-t-butylazo-4-chloropentyl acetate was added to a slight molar excess of sodium azide in 70% aqueous methanol. The acetate was saponified by the addition of excess KOH to the reaction. The alcohol was then converted to the chloroformate by adding a pentane solution of the alcohol and pyridine to a pentane solution of phosgene. After workup the infrared spectrum confirmed that the alcohol was converted to the chloroformate.

reactant | 4-t-butylazo-4-chloropentyl acetate | C(C)(=O)OCCCC(C)(Cl)N=NC(C)(C)C | C11H21ClN2O2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | acetate | C(C)(=O)[O-]
reactant | KOH | [OH-].[K+]
reactant | chloroformate | ClC(=O)[O-]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | methanol | CO | CH4O
solvent | pentane | CCCCC | C5H12
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-t-Butylazo-4-azidopentyl chloroformate | ClC(=O)OCCCC(C)(N=[N+]=[N-])N=NC(C)(C)C | C10H18ClN5O2
